US05585394
A) 4-Chloro-2-cyclopentylamino-1-nitrobenzene
A mixture of 20 g of 4-chloro-1,2-dinitrobenzene and 20 g of cyclopentylamine in 50 ml of 95° EtOH is stirred overnight at RT. The precipitate formed is filtered off and washed with 95° EtOH to give 14 g of the expected product. M.p.=75° C.

reactant | 4-chloro-1,2-dinitrobenzene | 20 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | cyclopentylamine | 20 g | C1(CCCC1)N | C5H11N
solvent | EtOH | CCO | C2H6O
product | 4-Chloro-2-cyclopentylamino-1-nitrobenzene | 14 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC1CCCC1 | C11H13ClN2O2
